US08865713B2
Step B: 4,5,6-Trichloro-1H-benzoimidazole.
A mixture of 2,3,4-trichloro-6-nitro-phenylamine (0.250 g, 1.04 mmol), sodium dithionite (0.907 g, 5.21 mmol), trimethyl orthoformate (4 ml), DMF (4 mL), and acetic acid (0.5 mL) was heated in a sealed tube for 15 h at 100° C. The reaction mixture was cooled to 23° C. and partitioned between EtOAc and saturated aqueous NaHCO3. The organic layer was collected and the aqueous layer was extracted with EtOAc. The combined organic layers were dried (MgSO4), filtered, and concentrated to yield the titled compound (0.098 g, 43%). MS (ESI/CI): mass calcd. for C7H3Cl3N2, 219.9; m/z found, 221.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 13.16 (s, 1H), 8.43 (s, 1H), 7.90 (s, 1H).

reactant | 2,3,4-trichloro-6-nitro-phenylamine | 1.04 mmol, 0.250 g | ClC1=C(C(=CC(=C1Cl)Cl)[N+](=O)[O-])N | C6H3Cl3N2O2
reactant | sodium dithionite | 5.21 mmol, 0.907 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | trimethyl orthoformate | 4 ml | C(OC)(OC)OC | C4H10O3
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | 4,5,6-Trichloro-1H-benzoimidazole | 0.098 g, 43% | ClC1=C(C(=CC=2NC=NC21)Cl)Cl | C7H3Cl3N2
